US07247626B2
To a cold (0° C.) solution of 4-methylpyrimidine (4.56 mL 50.1 mmol) and ethyl 3-chlorobenzoate (7.90 mL 50.1 mmol) in tetrahydrofuran (50 mL) was added lithium bis(trimethylsilyl)amide (100 mL, 1.0M in tetrahydrofuran, 100 mmol) dropwise over 30 minutes. The resultant mixture was warmed to room temperature and stirred 16 hours. The reaction mixture was concentrated in vacuo. The resultant oil was diluted with methanol. Upon standing, a solid precipitated, which was collected on a filter to provide 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethenol (11.2 g, 93%) as a yellow solid. Rf 0.31 (3:1 hexanes:ethyl acetate); 1H NMR (d6-DMSO) δ 8.37 (s, 1H), 7.98 (m, 1H), 7.81–7.76 (m, 2H), 7.38–7.32 (m, 2H), 6.71 (br, 1H), 5.65 (s, 1H); MS m/z 233 (M+1).

reactant | 4-methylpyrimidine | 50.1 mmol, 4.56 mL | CC1=NC=NC=C1 | C5H6N2
reactant | ethyl 3-chlorobenzoate | 50.1 mmol, 7.90 mL | ClC=1C=C(C(=O)OCC)C=CC1 | C9H9ClO2
reactant | lithium bis(trimethylsilyl)amide | 100 mmol, 1.0M, 100 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethenol | 11.2 g, 93% | ClC=1C=C(C=CC1)C(=CC1=NC=NC=C1)O | C12H9ClN2O
